US07968538B2
N-(1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine hydrochloride
A solution of N-(1-(5-chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine (15.0 mg, 0.03 mmol) in anhydrous dichloromethane (0.5 mL) was cooled to 0° C. and HCl (34 μL of a 1M solution in diethyl ether, 0.03 mmol) were added. The mixture was allowed to stir for 30 min. The solvent was removed by rotary evaporation and co-evaporated with hexanes to precipitate the salt. After removal of solvent by rotary evaporation the desired product was collected (16 mg, 99%). 1H NMR (400 MHz, CD3OD): δ 7.55 (d, 1H), 6.92 (d, 1H), 6.78 (d, 1H), 6.41 (dd, 1H), 6.06 (m 1H), 5.99 (s, 1H), 4.69 (m, 1H), 3.44 (m, 4H), 3.26 (m, 4H), 3.06 (s, 3H), 1.59 (d, 3H); MS (ESI) m/z: 438.2.0 (M++1).

reactant | N-(1-(5-chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine | 0.03 mmol, 15.0 mg | ClC1=CC2=C(OCO2)C(=C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C20H24ClN3O4S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(1-(5-Chlorobenzo[d][1,3]dioxol-7-yl)ethyl)-2-(methylsulfonyl)-5-(piperazin-1-yl)benzenamine hydrochloride | Cl.ClC1=CC2=C(OCO2)C(=C1)C(C)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | InChI=1S/C20H24ClN3O4S.ClH/c1-13(16-9-14(21)10-18-20(16)28-12-27-18)23-17-11-15(24-7-5-22-6-8-24)3-4-19(17)29(2,25)26;/h3-4,9-11,13,22-23H,5-8,12H2,1-2H3;1H
